US05073646
A solution of 14.8 g (69 mmol) of trifluoroacetic anhydride in 50 ml of chloroform are added dropwise to a solution of 14.72 g (55.25 mmol) of 3-aminomethyl-1-diphenylmethyl-3-methylazetidine in 100 ml of chloroform. The temperature is maintained at 20° C. during the addition and the mixture is then stirred for two hours at 25° C. It is washed with water, with 10% strength sodium bicarbonate solution and then again with water, dried with anhydrous sodium sulphate and evaporated, and 16.0 g (80%) of 1-diphenylmethyl-3-methyl-3-trifluoroacetylaminomethylazetidine, melting point 127°-8° C., are obtained.

reactant | trifluoroacetic anhydride | 69 mmol, 14.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-aminomethyl-1-diphenylmethyl-3-methylazetidine | 55.25 mmol, 14.72 g | NCC1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | C18H22N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-diphenylmethyl-3-methyl-3-trifluoroacetylaminomethylazetidine | 16.0 g, 80% | C1(=CC=CC=C1)C(N1CC(C1)(CNC(C(F)(F)F)=O)C)C1=CC=CC=C1 | C20H21F3N2O
